US09447074B2
Intermediate 61, 2-(1,1-dimethylethyl)-5-[(phenylmethyl)oxy]pyridine
To a stirred solution of copper (I) cyanide (18.31 g) in dry THF (400 ml) was added, at −78 C., tertbutylmagnesium chloride (1M in THF, 409 ml). The reaction mixture was stirred at this temperature for 15 min before slowly adding a solution of 2-bromo-5-[(phenylmethyl)oxy]pyridine (13.5 g) in THF. This was stirred for 2 h at −78 C. before warming to 25-30 C. and stirring for a further 20 h. The reaction mixture was poured into water and extracted with ethyl acetate. This was concentrated in vacuo and purified through silica, eluting with 0-2% ethyl acetate in hexane. Appropriate fractions were combined and concentrated in vacuo to yield the title compound, 6.3 g

reactant | copper (I) cyanide | 18.31 g | [Cu]C#N
reactant | tertbutylmagnesium chloride | 1M, 409 ml | C(C)(C)(C)[Mg]Cl
reactant | 2-bromo-5-[(phenylmethyl)oxy]pyridine | 13.5 g | BrC1=NC=C(C=C1)OCC1=CC=CC=C1 | C12H10BrNO
reactant | water | O | H2O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 2-(1,1-dimethylethyl)-5-[(phenylmethyl)oxy]pyridine | CC(C)(C)C1=NC=C(C=C1)OCC1=CC=CC=C1 | C16H19NO
